US07632861B2
2-(2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethyl)isoindoline-1,3-dione.
To a solution of 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethanol (200 mg, 0.48 mmol), isoindoline-1,3-dione (105 mg, 0.71 mmol), and triphenylphosphine (187 mg, 0.71 mmol) in tetrahydrofuran (5 mL) at 0° C. was added diethyl azodicarboxylate (0.112 mL, 0.71 mmol). The ice bath was removed and stirring continued for 1 h. Clean, complete conversion to product was observed. The reaction was quenched by addition of saturated ammonium chloride, and extracted with ethyl acetate (2×). The organics were washed with water, then saturated sodium bicarbonate, then brine, dried over magnesium sulfate, and concentrated. Column chromatography (8% EtOAc/Hex-->12% EtOAc/Hex) gave 255 mg (98%) as a colorless oil. 1H-NMR (CDCl3, 300 MHz) δ 7.73 (s, 1H), 7.67 (m, 2H), 7.63 (s, 2H), 7.61 (m, 2H), 7.00-7.15 (m, 4H), 5.16 (qAB, JAB=12.2 Hz, 2H), 4.60 (s, 2H), 3.77 (m, 1H), 3.68 (m, 1H), 3.63 (s, 2H), 2.47 (m, 1H), 2.30 (ddd, J=14.4, 7.3, 4.9 Hz, 1H); 13C-NMR (CDCl3, 126 MHz) δ 168.1, 141.2, 140.6, 140.0, 133.7, 132.2, 131.7 (q, J=33.6 Hz), 128.0, 127.4, 127.2, 123.4 (q, J=273 Hz), 122.9, 121.5, 121.4, 121.2, 88.9, 76.8, 73.0, 72.0, 33.6, 33.5. Mass spec.: 550.20 (MH)+.

reactant | 2-(1-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethanol | 0.48 mmol, 200 mg | FC(C=1C=C(COCC2(OCC3=CC=CC=C23)CCO)C=C(C1)C(F)(F)F)(F)F | C20H18F6O3
reactant | isoindoline-1,3-dione | 0.71 mmol, 105 mg | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | triphenylphosphine | 0.71 mmol, 187 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.71 mmol, 0.112 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(2-(1-((3,5-Bis(trifluoromethyl)benzyloxy)methyl)-1,3-dihydroisobenzofuran-1-yl)ethyl)isoindoline-1,3-dione | FC(C=1C=C(COCC2(OCC3=CC=CC=C23)CCN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)C(F)(F)F)(F)F | C28H21F6NO4
